US05233018
More specifically, in Reaction Scheme-7, tetrafluorophthalonitrile and tetrafluorohydroquinone (or its metal salts, e.g., disodium salt) are reacted usually in the presence of a base (for example, trimethylamine, etc.) in a polar solvent at 0° to 5° C. for 30 minutes to obtain 1,4-bis(3,4-dicyanotrifluorophenoxy)tetrafluorobenzene, which is then hydrolyzed, for example, in an aqueous 60% sulfuric acid solution at 150° C. for 15 hours to obtain 1,4-bis(3,4-dicarboxytrifluorophenoxy)tetrafluorobenzene. Refluxing the product in acetic anhydride for 2 hours results in dehydration to give 1,4-bis(3,4-dicarboxytrifluorophenoxytetrafluorobenzene dianhydride. Also, 1,4-bis(3,4-dicyanotrifluorophenoxy)tetrafluorobenzene may be heated, for example, in an aqueous 80% sulfuric acid solution at 200° C. for 2 hours to effect hydrolysis and dehydration in one step to obtain 1,4-bis(3,4-dicarboxytrifluorophenoxytetrafluorobenzene dianhydride.

reactant | tetrafluorophthalonitrile | FC=1C(=C(C(=C(C1C#N)C#N)F)F)F | C8F4N2
reactant | tetrafluorohydroquinone | FC1=C(C(=C(C(=C1O)F)F)O)F | C6H2F4O2
reactant | disodium | [Na][Na] | 2Na
reactant | trimethylamine | CN(C)C | C3H9N
product | 1,4-bis(3,4-dicyanotrifluorophenoxy)tetrafluorobenzene | C(#N)C=1C(=C(OC2=C(C(=C(C(=C2F)F)OC2=C(C(=C(C(=C2F)F)C#N)C#N)F)F)F)C(=C(C1C#N)F)F)F | C22F10N4O2
